US07129235B2
3′-Chloro-3,6-dihydro-2H-[1,2′]bipyridinyl-4-carboxylic acid[4-(2,2-dichloro-1-methyl-cyclopropyl)-phenyl]-amide
The title compound was prepared using the procedure described in Example 49D using 4-(2,2-dichloro-1-methyl-cyclopropyl)-phenylamine instead of 4-tert-butylaniline. MS (DCI+) m/z 436 (M+H)+ (70%), m/z 252 (M−183)+ (100%); 1H NMR (300 MHz, DMSO-D6) δ ppm 1.61 (s, 3 H), 1.74 (d, J=7.5 Hz, 1 H), 2.14 (d, J=7.8 Hz, 1 H), 2.56 (m, 2 H), 3.45 (t, J=5.4 Hz, 2 H), 4.01 (q, J=3.0 Hz, 2 H), 6.77 (m, 1 H), 7.00 (dd, J=7.6, 4.6 Hz, 1 H), 7.27 (m, 2 H), 7.67 (m, 2 H), 7.83 (dd, J=7.6, 1.5 Hz, 1 H), 8.22 (dd, J=4.7, 1.7 Hz, 1 H), 9.75 (s, 1 H).

reactant | 4-(2,2-dichloro-1-methyl-cyclopropyl)-phenylamine | ClC1(C(C1)(C)C1=CC=C(C=C1)N)Cl | C10H11Cl2N
reactant | M−183 | CCC[C@](C)([C@H]1C[C@@]23C=C[C@@]1([C@H]4[C@@]25CCN(C3CC6=C5C(=C(C=C6)OC(=O)C)O4)C)OC)O.Cl
product | 3′-Chloro-3,6-dihydro-2H-[1,2′]bipyridinyl-4-carboxylic acid[4-(2,2-dichloro-1-methyl-cyclopropyl)-phenyl]-amide | ClC1(C(C1)(C)C1=CC=C(C=C1)NC(=O)C=1CCN(CC1)C1=NC=CC=C1Cl)Cl | C21H20Cl3N3O
